### PR TITLE
[Merged by Bors] - feat: list lemmas

### PR DESCRIPTION
**Pull request by sven-manthe**
Add some general purpose lemmas on lists. The new ext_get?' is intermediate between ext and ext_get, and for consistent naming add an alias ext_get? for ext.

---

These lemmas are used in a project on Borel determinacy that may be added to mathlib.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/Basic.lean [hunk 1]
```diff
@@ -395,6 +395,11 @@ theorem cons_eq_append_iff {a b c : List α} {x : α} :
 @[deprecated] alias append_right_cancel := append_cancel_right -- deprecated since 2024-01-18
 #align list.append_right_cancel List.append_cancel_right
 
+@[simp] theorem append_left_cancel_nil_left {x y : List α}: x ++ y = x ↔ y = [] := by
+  constructor <;> intro h; apply List.append_cancel_left (as := x); all_goals simp[h]
+@[simp] theorem append_left_cancel_nil_right {x y : List α}: x = x ++ y ↔ y = [] :=
```
Comment (grunweg) [inline Mathlib/Data/List/Basic.lean:400]: Please put a blank line between two theorems. This makes files *so* much easier to read.

File: Mathlib/Data/List/Basic.lean [hunk 2]
```diff
@@ -395,6 +395,11 @@ theorem cons_eq_append_iff {a b c : List α} {x : α} :
...
+  by rw[eq_comm, append_left_cancel_nil_left]
```
Comment (grunweg) [inline Mathlib/Data/List/Basic.lean:401]: Per the style guide, please put the `by` on the previous line, and also put a space after the tactic name (i.e., do `rw [eq_comm]` instead of `rw[eq_comm]` etc.)

File: Mathlib/Data/List/Basic.lean [hunk 3]
```diff
@@ -485,6 +490,9 @@ theorem replicate_left_injective (a : α) : Injective (replicate · a) :=
   (replicate_left_injective a).eq_iff
 #align list.replicate_left_inj List.replicate_left_inj
 
+@[simp] theorem head_replicate {n} {a : α} (h : List.replicate n a ≠ []) :
+  head _ h = a := by
```
Comment (grunweg) [inline Mathlib/Data/List/Basic.lean:494]: I would put the conclusion on the same line.
Please put separate tactic calls on different lines: altogether, I'd write this like
```lean
@[simp]
theorem head_replicate {n} {a : α} (h : List.replicate n a ≠ []) : head _ h = a := by
  cases n <;> simp at *
  exfalso
  exact h rfl

File: Mathlib/Data/List/Basic.lean [hunk 4]
```diff
@@ -1348,6 +1359,11 @@ theorem take_one_drop_eq_of_lt_length' {l : List α} {n : ℕ} (h : n < l.length
 #align list.take_one_drop_eq_of_lt_length List.take_one_drop_eq_of_lt_length'
 
 #align list.ext List.ext
+theorem ext_get? : ∀ {l₁ l₂ : List α}, (∀ n, l₁.get? n = l₂.get? n) → l₁ = l₂ := List.ext
```
Comment (grunweg) [inline Mathlib/Data/List/Basic.lean:1362]: Here, the style guide rule "hypotheses left of colon" applies: l₁, l₂ and `∀ n, l₁.get? n = l₂.get? n` should become hypotheses, so the conclusion is only `l₁ = l₂`.

File: Mathlib/Data/List/Basic.lean [hunk 5]
```diff
@@ -395,6 +395,11 @@ theorem cons_eq_append_iff {a b c : List α} {x : α} :
 @[deprecated] alias append_right_cancel := append_cancel_right -- deprecated since 2024-01-18
 #align list.append_right_cancel List.append_cancel_right
 
+@[simp] theorem append_left_cancel_nil_left {x y : List α}: x ++ y = x ↔ y = [] := by
```
Comment (grunweg) [inline Mathlib/Data/List/Basic.lean:398]: A few comments:
- please put spaces around the colon, i.e. `{x y : List α} : x ++ y = x ↔ y = []`
- in general, writing several tactics on one line is frowned upon (there are exceptions, but this is a good rule of thumb)

Altogether, I'd write this more like
```lean
@[simp]
theorem append_left_cancel_nil_left {x y : List α} : x ++ y = x ↔ y = [] := by
  constructor <;>
  intro h <;>
  apply List.append_cancel_left (as := x) <;>
  all_goals simp [h]
```

File: Mathlib/Data/List/Basic.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/Data/List/Basic.lean:1362]: Also, please put a blank line before and after this theorem.

File: Mathlib/Data/List/Basic.lean [hunk 6]
```diff
@@ -1348,6 +1359,11 @@ theorem take_one_drop_eq_of_lt_length' {l : List α} {n : ℕ} (h : n < l.length
 #align list.take_one_drop_eq_of_lt_length List.take_one_drop_eq_of_lt_length'
 
 #align list.ext List.ext
+theorem ext_get? : ∀ {l₁ l₂ : List α}, (∀ n, l₁.get? n = l₂.get? n) → l₁ = l₂ := List.ext
+theorem ext_get?' {l₁ l₂ : List α} (h : l₁.length ≤ l₂.length)
+    (h' : ∀ n < l₂.length, l₁.get? n = l₂.get? n) : l₁ = l₂ := by
+  apply ext_get?; intro n; rcases Nat.lt_or_ge n l₂.length with hn | hn
+  exact h' _ hn; simp[List.get?_eq_none.mpr hn, le_trans h hn]
```
Comment (grunweg) [inline Mathlib/Data/List/Basic.lean:1366]: This last line is interesting: after the `rcases`, you have two goals.
In such cases, please intend both of them and precede them by a focusing dot · (inserted as \.), like so

```lean
  rcases Nat.lt_or_ge n l₂.length with hn | hn
  · exact h' _ hn
  · simp[List.get?_eq_none.mpr hn, le_trans h hn]

File: Mathlib/Data/List/Infix.lean [hunk 7]
```diff
@@ -69,6 +69,12 @@ theorem infix_rfl : l <:+: l :=
 
 theorem prefix_concat (a : α) (l) : l <+: concat l a := by simp
 #align list.prefix_concat List.prefix_concat
+theorem prefix_concat_iff {x y : List α} {a : α}: x <+: y ++ [a] ↔ x <+: y ∨ x = y ++ [a] := by
+  constructor
```
Comment (grunweg) [inline Mathlib/Data/List/Infix.lean:73]: Please use focusing dots to intend goals, not brackets.

File: Mathlib/Data/List/Infix.lean [hunk 8]
```diff
@@ -69,6 +69,12 @@ theorem infix_rfl : l <:+: l :=
...
+  { intro ⟨z, h⟩; induction' z using List.reverseRecOn with z
+    right; rw[List.append_nil] at h; exact h
+    left; rw[← List.append_assoc] at h; use z; exact List.append_inj_left' h rfl }
+  rintro (h | rfl); exact List.IsPrefix.trans h (List.prefix_append _ _); exact List.prefix_rfl
```
Comment (grunweg) [inline Mathlib/Data/List/Infix.lean:77]: Please intend this line and use a focusing dot.

File: Mathlib/Data/List/Infix.lean [hunk 9]
```diff
@@ -210,6 +216,19 @@ theorem prefix_iff_eq_take : l₁ <+: l₂ ↔ l₁ = take (length l₁) l₂ :=
     fun e => e.symm ▸ take_prefix _ _⟩
 #align list.prefix_iff_eq_take List.prefix_iff_eq_take
 
+theorem prefix_take_iff {x y : List α} {n : ℕ}: x <+: y.take n ↔ x <+: y ∧ x.length ≤ n := by
+  constructor
+  { intro h; constructor
+    exact List.IsPrefix.trans h (List.take_prefix _ _)
+    replace h := h.length_le; simp[Nat.le_min] at h; exact h.left }
```
Comment (grunweg) [inline Mathlib/Data/List/Infix.lean:223]: You have a "non-terminal simp" here (the `simp[Nat.le_min] at h` is not closing a goal). These are harder to maintain over time: please replace them by an equivalent `simp only` call: writing `simp?` will tell you which lemmas you need. (This procedure is called "squeezing", for I think just historical reasons: just in case you hear that word and wonder.)

File: Mathlib/Data/List/Infix.lean [hunk 10]
```diff
@@ -210,6 +216,19 @@ theorem prefix_iff_eq_take : l₁ <+: l₂ ↔ l₁ = take (length l₁) l₂ :=
...
+  { intro ⟨hp, hl⟩; have hl' := hp.length_le; rw[List.prefix_iff_eq_take] at *
+    rw[hp, List.take_take]; simp[min_eq_left, hl, hl'] }
+theorem concat_prefix_of_length_lt {x y : List α} (h : x <+: y) (hl : x.length < y.length) :
+    x ++ [y.get ⟨x.length, hl⟩] <+: y := by
+  use y.drop (x.length + 1); dsimp; nth_rw 1[List.prefix_iff_eq_take.mp h]
```
Comment (grunweg) [inline Mathlib/Data/List/Infix.lean:228]: Similarly, the `dsimp` is non-terminal. Please "squeeze" it also, i.e. replace by a `dsimp only` call.

File: Mathlib/Data/List/Infix.lean [hunk 11]
```diff
@@ -507,4 +526,14 @@ theorem mem_of_mem_suffix (hx : a ∈ l₁) (hl : l₁ <:+ l₂) : a ∈ l₂ :=
   hl.subset hx
 #align list.mem_of_mem_suffix List.mem_of_mem_suffix
 
+theorem ne_nil_prefix {x y : List α} (hx : x ≠ []) (h : x <+: y) : y ≠ [] := by
+  rintro rfl; apply hx; exact List.prefix_nil.mp h
```
Comment (grunweg) [inline Mathlib/Data/List/Infix.lean:530]: Often, the first version of a proof can be "golfed", i.e. written in a shorter or more concise way. This is such a case: the last lines can be combined into one: `exact hx (List.prefix_nil.mp h)`

**Review by grunweg — COMMENTED** [review]
Thanks for your contribution and welcome to mathlib!

I gave your PR a first look and have a lot of style comments. (This is perfectly normed for a first PR.) Quite a few things are also copied from the [style guide](https://leanprover-community.github.io/contribute/style.html); did you get to read that already?

Some issues occur several times - I haven't mentioned them all the time; please also address similar instances below.

File: Mathlib/Data/List/Basic.lean (hunk 2 above)
Comment (sven-manthe) [reply Mathlib/Data/List/Basic.lean]: About `rw[...]` vs `rw [...]`: I couldn't find this rule in your style guide (although the examples there comply), but just something about spaces after left arrows, and also had to fix this at places in the file not added by this commit. Maybe you should add it?

File: Mathlib/Data/List/Basic.lean (hunk 4 above)
Comment (sven-manthe) [reply Mathlib/Data/List/Basic.lean:1365]: Does "hypotheses left of colon" really apply? The condition "if the proof starts by introducing these variables" of the style guild is not satisfied (although I don't understand the dec_trivial example there)

**Comment by sven-manthe** [comment]
Thank you. I had a look at the style guide already, but my attempts to fix this with a few regexps didn't find all the issues. Now, apart from "hypotheses left of colon" (see above), I tried to fix all the mentioned issues

File: Mathlib/Data/List/Basic.lean [hunk 12]
```diff
@@ -395,6 +395,14 @@ theorem cons_eq_append_iff {a b c : List α} {x : α} :
 @[deprecated] alias append_right_cancel := append_cancel_right -- deprecated since 2024-01-18
 #align list.append_right_cancel List.append_cancel_right
 
+@[simp] theorem append_left_cancel_nil_left {x y : List α} : x ++ y = x ↔ y = [] := by
+  constructor <;> intro h
+  · apply List.append_cancel_left (as := x); simp [h]
```
Comment (grunweg) [inline Mathlib/Data/List/Basic.lean:400]: Can you write this as two lines, or better, combine into one? Here's a Lean trick: `by simp [h]` creates a proof term again, which you can use in the apply - i.e., writing `apply List.append_cancel_left (as := x) (by simp [h])`.
Then you can replace `apply` by `exact`.

File: Mathlib/Data/List/Basic.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/Data/List/Basic.lean:1365]: Good point - you don't explicitly introduce new variables in the beginning, that's right.
I'm quite sure some variables are introduced at least implicitly - I would put the first left of the colon for sure. I just tried it out, the second one also works...

And now that I tried it, it seems that is quite literally the same statement as `List.ext` in `std`.
Another reviewer may comment on this, but I wonder if this lemma should be removed, as it already exists.

File: Mathlib/Data/List/Basic.lean [hunk 13]
```diff
@@ -1349,6 +1362,15 @@ theorem take_one_drop_eq_of_lt_length' {l : List α} {n : ℕ} (h : n < l.length
 
 #align list.ext List.ext
 
+theorem ext_get? : ∀ {l₁ l₂ : List α}, (∀ n, l₁.get? n = l₂.get? n) → l₁ = l₂ := List.ext
+
+theorem ext_get?' {l₁ l₂ : List α} (h : l₁.length ≤ l₂.length)
+    (h' : ∀ n < l₂.length, l₁.get? n = l₂.get? n) : l₁ = l₂ := by
+  apply ext_get?; intro n
```
Comment (grunweg) [inline Mathlib/Data/List/Basic.lean:1369]: I would put these on two lines. This might be a matter of taste.

File: Mathlib/Data/List/Infix.lean [hunk 14]
```diff
@@ -70,6 +70,19 @@ theorem infix_rfl : l <:+: l :=
 theorem prefix_concat (a : α) (l) : l <+: concat l a := by simp
 #align list.prefix_concat List.prefix_concat
 
+theorem prefix_concat_iff {x y : List α} {a : α} : x <+: y ++ [a] ↔ x <+: y ∨ x = y ++ [a] := by
+  constructor
+  · intro ⟨z, h⟩; induction' z using List.reverseRecOn with z
```
Comment (grunweg) [inline Mathlib/Data/List/Infix.lean:75]: Can you put these on different lines?

File: Mathlib/Data/List/Infix.lean [hunk 15]
```diff
@@ -70,6 +70,19 @@ theorem infix_rfl : l <:+: l :=
...
+    · right
```
Comment (grunweg) [inline Mathlib/Data/List/Infix.lean:76]: You can simplify this slightly, using the `Or.inl` and `Or.inr` lemmas:
```lean
rw [List.append_nil] at h
exact Or.inr h
```
for the first one, and using `´Or.inl (full previous term)` for the second one.

File: Mathlib/Data/List/Infix.lean [hunk 16]
```diff
@@ -70,6 +70,19 @@ theorem infix_rfl : l <:+: l :=
...
+      rw [List.append_nil] at h
+      exact h
+    · left
```
Comment (grunweg) [inline Mathlib/Data/List/Infix.lean:79]: Here as well.

File: Mathlib/Data/List/Infix.lean [hunk 17]
```diff
@@ -210,6 +223,24 @@ theorem prefix_iff_eq_take : l₁ <+: l₂ ↔ l₁ = take (length l₁) l₂ :=
     fun e => e.symm ▸ take_prefix _ _⟩
 #align list.prefix_iff_eq_take List.prefix_iff_eq_take
 
+theorem prefix_take_iff {x y : List α} {n : ℕ} : x <+: y.take n ↔ x <+: y ∧ x.length ≤ n := by
+  constructor
+  · intro h; constructor
```
Comment (grunweg) [inline Mathlib/Data/List/Infix.lean:228]: Can you write tactics on separate lines please - there are a couple such instances in this file.

File: Mathlib/Data/List/Infix.lean [hunk 18]
```diff
@@ -507,4 +538,16 @@ theorem mem_of_mem_suffix (hx : a ∈ l₁) (hl : l₁ <:+ l₂) : a ∈ l₂ :=
   hl.subset hx
 #align list.mem_of_mem_suffix List.mem_of_mem_suffix
 
+theorem ne_nil_prefix {x y : List α} (hx : x ≠ []) (h : x <+: y) : y ≠ [] := by
+  rintro rfl; exact hx <| List.prefix_nil.mp h
+
+theorem get_eq_prefix {x y : List α} {n} (hn : n < x.length) (h : x <+: y) :
+    x.get ⟨n, hn⟩ = y.get ⟨n, by replace h := h.length_le; omega⟩ := by
+  obtain ⟨_, rfl⟩ := h; symm; apply List.get_append
```
Comment (grunweg) [inline Mathlib/Data/List/Infix.lean:546]: You can combine the last two tactic calls into one:
```suggestion
  obtain ⟨_, rfl⟩ := h
  exact (List.get_append _ _).symm

**Review by grunweg — COMMENTED** [review]
Thanks! You're right, the style guide doesn't mention spaces between tactics and their arguments. I think that's an oversight and should be fixed. (And I'll file a PR to remove the other occurrences.)

Just a few more, then I'm out of comments :-)

**Comment by grunweg** [comment]
One more thing: when you're addressed a comment, can you click "resolve conversation"? (If you would still like some opinion on a question, just leave it open. But right now, it's hard to see which is which.) Thanks!

File: Mathlib/Data/List/Basic.lean (hunk 4 above)
Comment (sven-manthe) [reply Mathlib/Data/List/Basic.lean:1365]: Indeed, I added an alias for List.ext to make the naming more consistent with my new ext-Lemma. I also don't know if this should be removed.

**Comment by sven-manthe** [comment]
> (And I'll file a PR to remove the other occurrences.)
Note that I fixed the occurences in this file already in the last commit (to avoid merge conflicts)

**Comment by grunweg** [comment]
> > (And I'll file a PR to remove the other occurrences.)
> > Note that I fixed the occurences in this file already in the last commit (to avoid merge conflicts)

I know! For me, it was easier to fix them all - I added you as a co-author on #11714. (Feel free to tweak how you're mentioned in the PR description.) I hope that's also fine!

File: Mathlib/Data/List/Basic.lean [hunk 19]
```diff
@@ -395,6 +395,14 @@ theorem cons_eq_append_iff {a b c : List α} {x : α} :
 @[deprecated] alias append_right_cancel := append_cancel_right -- deprecated since 2024-01-18
 #align list.append_right_cancel List.append_cancel_right
 
+@[simp] theorem append_left_cancel_nil_left {x y : List α} : x ++ y = x ↔ y = [] := by
+  constructor <;> intro h
+  · exact List.append_cancel_left (as := x) <| by simp [h]
+  · simp [h]
```
Comment (fpvandoorn) [inline Mathlib/Data/List/Basic.lean:401]:
```suggestion
  rw [← append_right_inj (t₁ := y), append_nil]
```

File: Mathlib/Data/List/Basic.lean [hunk 20]
```diff
@@ -395,6 +395,14 @@ theorem cons_eq_append_iff {a b c : List α} {x : α} :
...
+
+@[simp] theorem append_left_cancel_nil_right {x y : List α} : x = x ++ y ↔ y = [] := by
```
Comment (fpvandoorn) [inline Mathlib/Data/List/Basic.lean:403]: Can you also add the lemmas with `x ++ y = x` and `x = x ++ y` as LHS?

File: Mathlib/Data/List/Basic.lean [hunk 21]
```diff
@@ -771,6 +781,9 @@ theorem getLast?_append {l₁ l₂ : List α} {x : α} (h : x ∈ l₂.getLast?)
 
 /-! ### head(!?) and tail -/
 
+@[simp] theorem head_tail (x : List α) (h : x ≠ []) : (x.head h) :: x.tail = x := by
```
Comment (fpvandoorn) [inline Mathlib/Data/List/Basic.lean:784]:
```suggestion
@[simp] theorem head_cons_tail (x : List α) (h : x ≠ []) : (x.head h) :: x.tail = x := by
```

File: Mathlib/Data/List/Basic.lean [hunk 22]
```diff
@@ -1349,6 +1362,16 @@ theorem take_one_drop_eq_of_lt_length' {l : List α} {n : ℕ} (h : n < l.length
 
 #align list.ext List.ext
 
+theorem ext_get? : ∀ {l₁ l₂ : List α}, (∀ n, l₁.get? n = l₂.get? n) → l₁ = l₂ := List.ext
+
+theorem ext_get?' {l₁ l₂ : List α} (h : l₁.length ≤ l₂.length)
+    (h' : ∀ n < l₂.length, l₁.get? n = l₂.get? n) : l₁ = l₂ := by
```
Comment (fpvandoorn) [inline Mathlib/Data/List/Basic.lean:1368]: These hypotheses are probably not the most convenient. How about assuming `∀ n < max l₁.length l₂.length, l₁.get? n = l₂.get? n`?

Can you also add `iff` versions for this lemma?

File: Mathlib/Data/List/Infix.lean [hunk 23]
```diff
@@ -507,4 +540,17 @@ theorem mem_of_mem_suffix (hx : a ∈ l₁) (hl : l₁ <:+ l₂) : a ∈ l₂ :=
   hl.subset hx
 #align list.mem_of_mem_suffix List.mem_of_mem_suffix
 
+theorem ne_nil_prefix {x y : List α} (hx : x ≠ []) (h : x <+: y) : y ≠ [] := by
```
Comment (fpvandoorn) [inline Mathlib/Data/List/Infix.lean:543]:
```suggestion
theorem IsPrefix.ne_nil {x y : List α} (hx : x ≠ []) (h : x <+: y) : y ≠ [] := by
```
to enable dot notation.

File: Mathlib/Data/List/Infix.lean [hunk 24]
```diff
@@ -507,4 +540,17 @@ theorem mem_of_mem_suffix (hx : a ∈ l₁) (hl : l₁ <:+ l₂) : a ∈ l₂ :=
...
+  rintro rfl; exact hx <| List.prefix_nil.mp h
+
+theorem get_eq_prefix {x y : List α} {n} (hn : n < x.length) (h : x <+: y) :
+    x.get ⟨n, hn⟩ = y.get ⟨n, by replace h := h.length_le; omega⟩ := by
```
Comment (fpvandoorn) [inline Mathlib/Data/List/Infix.lean:547]:
```suggestion
theorem IsPrefix.get_eq {x y : List α} {n} (hn : n < x.length) (h : x <+: y) :
    x.get ⟨n, hn⟩ = y.get ⟨n, hn.trans_le h.length_le⟩ := by
```
I think it's good to keep large proof terms out of theorem *statements*

File: Mathlib/Data/List/Infix.lean [hunk 25]
```diff
@@ -507,4 +540,17 @@ theorem mem_of_mem_suffix (hx : a ∈ l₁) (hl : l₁ <:+ l₂) : a ∈ l₂ :=
...
+  obtain ⟨_, rfl⟩ := h
+  exact (List.get_append n hn).symm
+
+theorem head_eq_prefix {x y : List α} (hx : x ≠ []) (h : x <+: y) :
```
Comment (fpvandoorn) [inline Mathlib/Data/List/Infix.lean:551]:
```suggestion
theorem IsPrefix.head_eq {x y : List α} (hx : x ≠ []) (h : x <+: y) :
```

Comment (fpvandoorn) [reply Mathlib/Data/List/Infix.lean:551]: (alternative name is `head_eq_of_isPrefix` following our naming conventions, but I think enabling the dot notation is nice.)

**Review by fpvandoorn — COMMENTED** [review]
Thanks, looks good. I still have a few comments.

File: Mathlib/Data/List/Basic.lean (hunk 4 above)
Comment (fpvandoorn) [reply Mathlib/Data/List/Basic.lean:1365]: I would remove this, and call the next lemma `ext_get?`. That seems consistent with [List.ext_get](https://leanprover-community.github.io/mathlib4_docs/Std/Data/List/Lemmas.html#List.ext_get) to me.

**Comment by fpvandoorn** [comment]
Also, please merge master because there is a merge conflict. Let me know if you need help / need me to do it.

File: Mathlib/Data/List/Infix.lean (hunk 24 above)
Comment (grunweg) [reply Mathlib/Data/List/Infix.lean:547]: If Floris agrees above, I would suggest to also swap the order of the hypotheses `hn` and `h`; putting `h` first.

File: Mathlib/Data/List/Infix.lean (hunk 25 above)
Comment (grunweg) [reply Mathlib/Data/List/Infix.lean:551]: If Floris agrees above, I would suggest to also swap the order of the hypotheses `hn` and `h`; putting `h` first.

File: Mathlib/Data/List/Infix.lean (hunk 23 above)
Comment (sven-manthe) [reply Mathlib/Data/List/Infix.lean:543]: Intuitively I'd prefer the current order, maybe just because in applications I used `apply ne_nil_prefix hx`. Moreover, dot notation would allow either `apply IsPrefix.ne_nil hx` or `apply h.ne_nil` with the current order, but only the second one (without _) with the suggested one. (Of course, there may be more relevant considerations)

File: Mathlib/Data/List/Basic.lean (hunk 22 above)
Comment (sven-manthe) [reply Mathlib/Data/List/Basic.lean:1368]: This hypothesis was indeed nicer in my applications. I also added iff-versions for the other List ext lemmas, since they seemed to be missing

File: Mathlib/Data/List/Infix.lean (hunk 23 above)
Comment (YaelDillies) [reply Mathlib/Data/List/Infix.lean]: Dot notation doesn't care about hypothesis order (to the extent that you are not swapping two `IsPrefix` assumptions)

File: Mathlib/Data/List/Infix.lean [hunk 26]
```diff
@@ -70,6 +70,18 @@ theorem infix_rfl : l <:+: l :=
 theorem prefix_concat (a : α) (l) : l <+: concat l a := by simp
 #align list.prefix_concat List.prefix_concat
 
+theorem prefix_concat_iff {x y : List α} {a : α} : x <+: y ++ [a] ↔ x <+: y ∨ x = y ++ [a] := by
```
Comment (YaelDillies) [inline Mathlib/Data/List/Infix.lean:73]: Curious question: Can you easily deduce this by putting some `reverse` everywhere and applying `List.suffix_cons_iff`?

File: Mathlib/Data/List/Infix.lean (hunk 23 above)
Comment (sven-manthe) [reply Mathlib/Data/List/Infix.lean]: I don't get it. Since dot notation doesn't care about hypothesis order, you get `h.ne_nil : x ≠ [] → y ≠ []` with either order, don't you?

File: Mathlib/Data/List/Basic.lean [hunk 27]
```diff
@@ -1349,6 +1366,29 @@ theorem take_one_drop_eq_of_lt_length' {l : List α} {n : ℕ} (h : n < l.length
...
+    l₁.length = l₂.length ∧ ∀ n h₁ h₂, get l₁ ⟨n, h₁⟩ = get l₂ ⟨n, h₂⟩ := by
+  constructor
+  · rintro rfl
+    exact ⟨rfl, fun _ _ _ ↦ rfl⟩
+  · intro ⟨h₁, h₂⟩
+    exact ext_get h₁ h₂
+
+theorem ext_get?_iff {l₁ l₂ : List α} : l₁ = l₂ ↔
+    ∀ n < max l₁.length l₂.length, l₁.get? n = l₂.get? n :=
+  ⟨by rintro rfl _ _; rfl, List.ext_get?⟩
```
[the remark this answers is not in the document]
Comment (sven-manthe) [reply Mathlib/Data/List/Basic.lean]: My main reason is the naming of the existing non-iff versions. I previously added an alias List.ext_get? to List.ext, which is much closer to your suggestion, but had the impression that the consensus is to keep these names.

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Data/List/Basic.lean]: Personally I would have no idea what `List.ext` refers to if you asked me. What version of `get` is more fundamental? No idea

File: Mathlib/Data/List/Infix.lean (hunk 23 above)
Comment (fpvandoorn) [reply Mathlib/Data/List/Infix.lean]: It is less confusing if `h.ne_nil h2` is the same as `IsPrefix.ne_nil h h2` instead of `IsPrefix.ne_nil h2 h`. I also prefer the order `x <+: y → x ≠ [] → y ≠ []`, but I don't feel strongly.

File: Mathlib/Data/List/Basic.lean [hunk 28]
```diff
@@ -397,6 +397,18 @@ theorem cons_eq_append_iff {a b c : List α} {x : α} :
 @[deprecated] alias append_right_cancel := append_cancel_right -- deprecated since 2024-01-18
 #align list.append_right_cancel List.append_cancel_right
 
+@[simp] theorem append_left_eq_self {x y : List α} : y ++ x = x ↔ y = [] := by
```
[the remark this answers is not in the document]
Comment (sven-manthe) [reply Mathlib/Data/List/Basic.lean:400]: The current naming (suggested by Floris) is completely analogous to the one for `AddLeftCancelMonoid` (however, I will change the variable names)

File: Mathlib/Data/List/Basic.lean (hunk 27 above)
[the remark this answers is not in the document]
Comment (sven-manthe) [reply Mathlib/Data/List/Basic.lean]: Personally I'm with you here (and I'm also annoyed by the fact that List.ext is marked @[ext] in Std). But just renaming the iff-lemmas seems worse than the current solution, and adding an alias without deprecating the old name also feels suboptimal. So, if we really want to change this, we should go via Std and not mathlib

File: Mathlib/Data/List/Infix.lean (hunk 26 above)
Comment (sven-manthe) [reply Mathlib/Data/List/Infix.lean]: Indeed

File: Mathlib/Data/List/Basic.lean [hunk 29]
```diff
@@ -487,6 +499,8 @@ theorem replicate_left_injective (a : α) : Injective (replicate · a) :=
   (replicate_left_injective a).eq_iff
 #align list.replicate_left_inj List.replicate_left_inj
 
+@[simp] theorem head_replicate (n : ℕ) (a : α) (h) : head (replicate n a) h = a := by
+  cases n <;> simp at h ⊢
```
Comment (YaelDillies) [inline Mathlib/Data/List/Basic.lean:503]:
```suggestion
  cases n <;> simp at h ⊢

```

File: Mathlib/Data/List/Infix.lean [hunk 30]
```diff
@@ -70,6 +70,13 @@ theorem infix_rfl : l <:+: l :=
 theorem prefix_concat (a : α) (l) : l <+: concat l a := by simp
 #align list.prefix_concat List.prefix_concat
 
+theorem prefix_concat_iff {x y : List α} {a : α} : x <+: y ++ [a] ↔ x = y ++ [a] ∨ x <+: y := by
+  convert suffix_cons_iff using 1
+  · rw [← List.reverse_concat, List.reverse_suffix, ← concat_eq_append]
+  · congr! 1
+    · rw [← List.reverse_concat, ← concat_eq_append, reverse_inj]
+    · apply reverse_suffix.symm
```
Comment (YaelDillies) [inline Mathlib/Data/List/Infix.lean:78]: Could you get a proof looking like this working?
```suggestion
  simpa using suffix_cons_iff (l₁ := x.reverse) (l₂ := y.reverse)
```
(Also this shows you probably shouldn't call your lists `x` and `y`)

File: Mathlib/Data/List/Infix.lean [hunk 31]
```diff
@@ -211,6 +218,27 @@ theorem prefix_iff_eq_take : l₁ <+: l₂ ↔ l₁ = take (length l₁) l₂ :=
...
+    · replace h := h.length_le
+      rw [length_take, Nat.le_min] at h
+      exact h.left
+  · intro ⟨hp, hl⟩
+    have hl' := hp.length_le
+    rw [List.prefix_iff_eq_take] at *
+    rw [hp, List.take_take]
+    simp [min_eq_left, hl, hl']
+
+theorem concat_prefix_of_length_lt {x y : List α} (h : x <+: y) (hl : x.length < y.length) :
```
Comment (YaelDillies) [inline Mathlib/Data/List/Infix.lean:235]:
```suggestion
theorem concat_get_prefix {x y : List α} (h : x <+: y) (hl : x.length < y.length) :
```

File: Mathlib/Data/List/Infix.lean (hunk 30 above)
Comment (sven-manthe) [reply Mathlib/Data/List/Infix.lean]: Okay, this worked after adding a new lemma reverse_concat' (which seems to be good to have anyway as `x++[a]` seemingly is the simp-normal form of `x.concat a`. About the names: Is there a consistent convention? I think the mathlib naming convention mentioned s,t,... for lists, parts of the library use l_i, etc.

File: Mathlib/Data/List/Basic.lean [hunk 32]
```diff
@@ -1367,16 +1367,20 @@ theorem take_one_drop_eq_of_lt_length' {l : List α} {n : ℕ} (h : n < l.length
 
 #align list.ext List.ext
 
-theorem ext_get? {l₁ l₂ : List α} (h' : ∀ n < max l₁.length l₂.length, l₁.get? n = l₂.get? n) :
+-- TODO one may rename ext in the standard library, and it is also not clear
+-- which of ext_get?, ext_get?', ext_get should be @[ext], if any
+theorem ext_get? : ∀ {l₁ l₂ : List α}, (∀ n, l₁.get? n = l₂.get? n) → l₁ = l₂ := ext
```
Comment (YaelDillies) [inline Mathlib/Data/List/Basic.lean:1372]:
```suggestion
alias ext_get? := ext
```

File: Mathlib/Data/List/Basic.lean [hunk 33]
```diff
@@ -1386,9 +1390,9 @@ theorem ext_get_iff {l₁ l₂ : List α} :
   · intro ⟨h₁, h₂⟩
     exact ext_get h₁ h₂
 
-theorem ext_get?_iff {l₁ l₂ : List α} : l₁ = l₂ ↔
+theorem ext_get?'_iff {l₁ l₂ : List α} : l₁ = l₂ ↔
```
Comment (YaelDillies) [inline Mathlib/Data/List/Basic.lean:1393]:
```suggestion
theorem ext_get?_iff' {l₁ l₂ : List α} : l₁ = l₂ ↔
```

File: Mathlib/Data/List/Infix.lean [hunk 34]
```diff
@@ -70,12 +70,13 @@ theorem infix_rfl : l <:+: l :=
...
 #align list.prefix_concat List.prefix_concat
 
-theorem prefix_concat_iff {x y : List α} {a : α} : x <+: y ++ [a] ↔ x = y ++ [a] ∨ x <+: y := by
-  convert suffix_cons_iff using 1
-  · rw [← List.reverse_concat, List.reverse_suffix, ← concat_eq_append]
-  · congr! 1
-    · rw [← List.reverse_concat, ← concat_eq_append, reverse_inj]
-    · apply reverse_suffix.symm
+theorem reverse_concat' (l : List α) (a : α) : (l ++ [a]).reverse = a :: l.reverse := by
+  rw [reverse_append]; rfl
```
Comment (YaelDillies) [inline Mathlib/Data/List/Infix.lean:74]: Can this go earlier?

File: Mathlib/Data/List/Infix.lean (hunk 30 above)
Comment (YaelDillies) [reply Mathlib/Data/List/Infix.lean]: `s` , `t` for lists is quite strange. I use `a b c d w x y z : α`, `l l₁ l₂ : List α`, `L L₁ L₂ : List (List α)`, `m m₁ m₂ s s₁ s₂ t t₁ t₂ : Multiset α`, `s s₁ s₂ t t₁ t₂ u v : Finset α`.

Comment (sven-manthe) [reply Mathlib/Data/List/Infix.lean]: Maybe in this case https://leanprover-community.github.io/contribute/style.html should be updated

Comment (YaelDillies) [reply Mathlib/Data/List/Infix.lean]: Yes, feel free to open a PR for that

**Review by fpvandoorn — COMMENTED** [review]
LGTM
bors merge
